data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_355234_2,[C:1](/[C:4](=[C:3](\[N:2]([N:8]=[C:6]([H:16])[H:17])[H:10])[N:5]([H:11])[H:12])[O:7][H:9])([H:13])([H:14])[H:15]>>[C:1]([C:4](/[C:3](=[N:2]\[H:10])[N:5]([H:11])[H:12])([O:7][H:9])[N:8]=[C:6]([H:16])[H:17])([H:13])([H:14])[H:15],73.26878249999481
MR_289082_0,[C:1](/[N:9]=[C:4]([C:3](=[C:5](/[C:2]([H:18])([H:19])[H:20])[N:7]([H:13])[H:14])\[O:8][H:10])/[N:6]([H:11])[H:12])([H:15])([H:16])[H:17]>>[C:1]([N:9]1[C:4]([N:6]([H:11])[H:12])=[C:3]([O:8][H:10])[C:5]1([C:2]([H:18])([H:19])[H:20])[N:7]([H:13])[H:14])([H:15])([H:16])[H:17],45.725925000014485
MR_66439_2,[C:1]([N:3]([C:2]([H:12])([H:13])[H:14])[H:7])(/[N:6]=[N:5]/[N:4]([H:8])[H:9])([H:10])[H:11]>>[C:1]1([H:10])([H:11])[N:3]([C:2]([H:12])([H:13])[H:14])[N:6]1[N:5]([N:4]([H:8])[H:9])[H:7],70.13567500002225
MR_89455_0,[C:1]([C:2]([H:11])([H:12])[H:13])([C:3]([H:14])([H:15])[H:16])([C:4]([H:17])([H:18])[H:19])[N:5]([C:6](=[O:8])[H:10])[O:7][H:9]>>[C:1]([C:2]([H:11])([H:12])[H:13])([C:3]([H:14])([H:15])[H:16])([C:4]([H:17])([H:18])[H:19])[O:8]/[C:6](=[N:5]\[O:7][H:9])[H:10],61.30172999999687
MR_535635_1,[C:1]([C:3](=[C:2]([N:4]([H:10])[H:11])[N:5]([H:9])[H:12])/[N:8]=[C:7](\[N:6]([H:13])[H:14])[H:15])([H:16])([H:17])[H:18]>>[C:1]([C:3]1=[N:8][C:7]([N:6]([H:13])[H:14])([H:15])[C:2]1([N:4]([H:10])[H:11])[N:5]([H:9])[H:12])([H:16])([H:17])[H:18],56.76176750000934
MR_11177_0,[C:1]([N:2]([H:5])[H:6])([N:3][O:4])([H:7])[H:8]>>[C:1](\[N:2]([H:5])[H:6])(=[N:3]/[O:4][H:8])[H:7],59.210272499980405
MR_672696_1,[C:1]1([H:11])([H:12])[C:4]([C:3]([H:15])([H:16])[H:17])([C:5]([C:2](=[O:8])[H:14])([N:6]([H:9])[H:10])[H:13])[O:7]1>>[C:1]1([H:11])([H:12])[O:7][C:4]([C:3]([H:15])([H:16])[H:17])=[C:5]([N:6]([H:9])[H:10])[C:2]([H:13])([H:14])[O:8]1,70.78576500002171
MR_551568_1,[C:1]([C:2]([H:10])([H:11])[H:12])([O:5][C:4]([C:3]([H:13])([H:14])[H:15])=[O:8])([N:6]=[O:7])[H:9]>>[C:1]1([C:2]([H:10])([H:11])[H:12])([H:9])[C:4]([C:3]([H:13])([H:14])[H:15])([O:8][N:6]=[O:7])[O:5]1,68.14587250001665
MR_274288_0,[C:1]([C:3](=[C:4]([H:14])[H:15])[O:5]/[C:2]([O:7][H:10])=[N:8]\[O:6][H:9])([H:11])([H:12])[H:13]>>[C:1]([C:3]([C:4](/[C:2]([O:7][H:10])=[N:8]\[O:6][H:9])([H:14])[H:15])=[O:5])([H:11])([H:12])[H:13],55.72325499999181
MR_454339_0,[C:1](=[C:2](/[O:6][H:9])[N:7]([N:3]([H:11])[H:12])[C:5](=[O:8])[H:15])(\[N:4]([H:13])[H:14])[H:10]>>[C:1](/[C:2]([O:6][H:9])=[N:7]/[N:3]([H:11])[H:12])([N:4]([H:13])[H:14])([C:5](=[O:8])[H:15])[H:10],43.184550000010375
MR_25450_1,[C:1](\[C:2]([C:3]([H:16])([H:17])[H:19])([H:14])[H:15])(=[C:5](\[C:6](=[C:4]([H:18])[H:20])[N:8]([H:12])[H:13])[N:7]([H:10])[H:11])[H:9]>>[C:1]1(/[C:5](=[C:6](\[C:4]([H:18])([H:19])[H:20])[N:8]([H:12])[H:13])[N:7]([H:10])[H:11])([H:9])[C:2]([H:14])([H:15])[C:3]1([H:16])[H:17],63.354909999949456
MR_37930_0,[C:1](/[C:2](=[N:6]/[H:10])[H:8])([C:3]([H:9])([H:13])[H:14])([C:4]([N:7]([H:11])[H:12])([H:15])[H:16])[C:5]([H:17])([H:18])[H:19]>>[C:1]1([C:4]([N:7]([H:11])[H:12])([H:15])[H:16])([C:5]([H:17])([H:18])[H:19])[C:2]([N:6]([H:9])[H:10])([H:8])[C:3]1([H:13])[H:14],72.86781000000843
MR_571900_2,[C:1]([N:3]([N:2]([C:4](=[O:6])[H:9])[O:5][H:7])[H:8])([H:10])([H:11])[H:12]>>[C:1]([N:3]([C:4]([N:2]=[O:5])([O:6][H:7])[H:9])[H:8])([H:10])([H:11])[H:12],36.557522499977466
MR_592275_0,[C:1](/[N:9]=[C:3](\[C:5]([C:2]([H:18])([H:19])[H:20])=[C:4]([N:6]([H:11])[H:12])[N:7]([H:13])[H:14])[O:8][H:10])([H:15])([H:16])[H:17]>>[C:1]([N:9]1[C:3]([O:8][H:10])=[C:5]([C:2]([H:18])([H:19])[H:20])[C:4]1([N:6]([H:11])[H:12])[N:7]([H:13])[H:14])([H:15])([H:16])[H:17],39.74773249998421
MR_364340_1,[C:1]1([C:2]([H:15])([H:16])[H:17])([H:11])[C:4]([N:3]([O:6][H:9])[H:10])(/[C:5](=[N:8]/[H:13])[H:14])[N:7]1[H:12]>>[C:1]([C:2]([H:15])([H:16])[H:17])(/[C:4]([N:3]([O:6][H:9])[H:10])=[N:7]\[H:12])(/[C:5](=[N:8]/[H:13])[H:14])[H:11],72.54715749999761
MR_91676_0,[C:1]([C:4]([C:2]([H:12])([H:13])[H:14])[C:3]([C:5](=[O:7])[H:9])[O:6][H:8])([H:10])([H:11])[H:15]>>[C:1]([C:4]1([C:2]([H:12])([H:13])[H:14])[C:3]([O:6][H:8])=[C:5]([H:9])[O:7]1)([H:10])([H:11])[H:15],60.55249499996236
MR_39419_1,[C:1]([C:4]1([O:8][H:9])[C:5]([C:2]([H:15])([H:16])[H:20])([C:3]([H:17])([H:18])[H:19])[C:7]([H:11])=[C:6]1[H:10])([H:12])([H:13])[H:14]>>[C:1]([C:4]1=[C:6]([H:10])[C:7]([O:8][H:9])([H:11])[C:5]1([C:2]([H:15])([H:16])[H:20])[C:3]([H:17])([H:18])[H:19])([H:12])([H:13])[H:14],64.2208600000103
MR_251620_2,[C:1]([N:4]([N:5]([C:2]([H:15])([H:16])[H:19])[C:3]([H:17])([H:18])[H:20])/[C:7](=[N:8]\[N:6]([H:9])[H:10])[H:11])([H:12])([H:13])[H:14]>>[C:1]([N:4][C:7]([N:8]([N:5]([C:2]([H:15])([H:16])[H:19])[C:3]([H:17])([H:18])[H:20])[N:6]([H:9])[H:10])[H:11])([H:12])([H:13])[H:14],65.12257749998085
MR_237008_2,[C:1]([N:3](/[C:4]([C:2]([H:15])([H:16])[H:17])=[C:6](/[O:7][H:8])[H:11])[N:5]([H:9])[H:10])([H:12])([H:13])[H:14]>>[C:1](/[N:3]=[C:4](/[C:2]([H:15])([H:16])[H:17])[C:6]([N:5]([H:9])[H:10])([O:7][H:8])[H:11])([H:12])([H:13])[H:14],53.63870000001143
